US08058276B2
Step 15.8: 6-(2-Amino-6-chloro-pyrimidin-4-yloxy)-pyrazolo[1,5-a]pyridine-3-carboxylic acid (3-trifluoromethyl-phenyl)-amide
10.5 μl (0.084 mMol) 3-Trifluoromethyl aniline are dissolved in 2 ml toluene and cooled to 5° C. 126 μl Me3Al (2 M solution in toluene; 0.25 mMol) are added slowly via a syringe followed by a solution of 27 mg (0.084 mMol) 6-(2-amino-6-chloro-pyrimidin-4-yloxy)-pyrazolo[1,5-a]pyridine-3-carboxylic acid methyl ester in 1 ml THF. The reaction is stirred at rt for 1 h and then heated to 110° C. for 30 min. The reaction is submitted to aq. workup with EtOAc/H2O. The organic layers are combined, dried and concentrated to give the crude product which is further purified by flash chromatography (SiO2, 4 g column, CH2Cl2/MeOH; gradient 0-10% MeOH) to give the title compound as a white solid: m.p.: 219-221° C.; MS: [M+1]+=449.

reactant | 3-Trifluoromethyl aniline | 0.084 mMol, 10.5 μl | FC(C=1C=C(N)C=CC1)(F)F | C7H6F3N
reactant | Me3Al | 0.25 mMol, 2 M, 126 μl | C[Al](C)C
reactant | 6-(2-amino-6-chloro-pyrimidin-4-yloxy)-pyrazolo[1,5-a]pyridine-3-carboxylic acid methyl ester | 0.084 mMol, 27 mg | COC(=O)C=1C=NN2C1C=CC(=C2)OC2=NC(=NC(=C2)Cl)N | C13H10ClN5O3
reactant | EtOAc H2O | CCOC(=O)C.O
solvent | toluene | 2 ml | C1(=CC=CC=C1)C | C7H8
solvent | THF | 1 ml | C1CCOC1 | C4H8O
product | 6-(2-Amino-6-chloro-pyrimidin-4-yloxy)-pyrazolo[1,5-a]pyridine-3-carboxylic acid (3-trifluoromethyl-phenyl)-amide | FC(C=1C=C(C=CC1)NC(=O)C=1C=NN2C1C=CC(=C2)OC2=NC(=NC(=C2)Cl)N)(F)F | C19H12ClF3N6O2
